US03992389
1-[2-(3,4-Dimethoxyphenyl)ethyl]-4acetamidopyridinium iodide
1-(2-Iodoethyl)-3,4-dimethoxybenzene (29.3 g.) and 4-acetamidopyridine (14.0 g.) in absolute ethanol (100 ml.) were refluxed for 2.5 hours. The resulting crystalline material was collected and recrystallised from ethanol to give the title compound (29.1 g.), m.p. 201°-202°C. (Found: C, 47.9; H, 4.9; N, 6.3; C17H21IN2O3 requires C, 47.7; H, 4.9; N, 6.5%).

reactant | 1-(2-Iodoethyl)-3,4-dimethoxybenzene | 29.3 g | ICCC1=CC(=C(C=C1)OC)OC | C10H13IO2
reactant | 4-acetamidopyridine | 14.0 g | C(C)(=O)NC1=CC=NC=C1 | C7H8N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[2-(3,4-Dimethoxyphenyl)ethyl]-4acetamidopyridinium iodide | 29.1 g | [I-].COC=1C=C(C=CC1OC)CC[N+]1=CC=C(C=C1)NC(C)=O | InChI=1S/C17H20N2O3.HI/c1-13(20)18-15-7-10-19(11-8-15)9-6-14-4-5-16(21-2)17(12-14)22-3;/h4-5,7-8,10-12H,6,9H2,1-3H3;1H
